US06034246
Sodium 4-(benzothiazol-2-yl)-3-methylphenylsulphamate (DF228)
2-(4'-amino-3'-methylphenyl)benzothiazole was treated with chlorsulphonic acid in 2-picoline and sodium carbonate according to the above-described general procedure for preparation of sulphamate salts. A yellow powder was obtained in 82% yield, m.p. 169.5° C. (dec).

reactant | 2-(4'-amino-3'-methylphenyl)benzothiazole | NC1=C(C=C(C=C1)C=1SC2=C(N1)C=CC=C2)C | C14H12N2S
reactant | chlorsulphonic acid | ClS(=O)(=O)O | ClHO3S
reactant | sulphamate | S(N)([O-])(=O)=O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 2-picoline | N1=C(C=CC=C1)C | C6H7N
product | Sodium 4-(benzothiazol-2-yl)-3-methylphenylsulphamate | 82% yield | S1C(=NC2=C1C=CC=C2)C2=C(C=C(C=C2)NS([O-])(=O)=O)C.[Na+] | InChI=1S/C14H12N2O3S2.Na/c1-9-8-10(16-21(17,18)19)6-7-11(9)14-15-12-4-2-3-5-13(12)20-14;/h2-8,16H,1H3,(H,17,18,19);/q;+1/p-1
